US04125599
In the preparation of the 3-acetamido-2,4,6-triiodo-5-trishydroxymethylacetamido-benzoic acid of the invention, 3-nitro-trishydroxymethylacetamido-benzoic acid is reduced to form 3-amino-5-trishydroxymethylacetamido-benzoic acid. The latter is then iodinated to form 3-amino-2,4,6-triiodo-5-trishydroxymethylacetamido-benzoic acid, after which the 3-amino compound is acylated to form the desired 3-acetamido-2,4,6-triiodo-5-trishydroxymethylacetamido-benzoic acid.

reactant | 3-acetamido-2,4,6-triiodo-5-trishydroxymethylacetamido-benzoic acid | C(C)(=O)NC=1C(=C(C(=O)O)C(=C(C1I)NC(CC(O)(O)O)=O)I)I | C12H11I3N2O7
reactant | 3-nitro-trishydroxymethylacetamido-benzoic acid | [N+](=O)([O-])C=1C(=C(C(=O)O)C=CC1)NC(C(CO)(CO)CO)=O | C12H14N2O8
product | 3-amino-5-trishydroxymethylacetamido-benzoic acid | NC=1C=C(C(=O)O)C=C(C1)NC(CC(O)(O)O)=O | C10H12N2O6
